US05880147
N-(2-t-Butyl-5-carbamoylphenyl)-3-(2,4-dimethoxy-5-methoxycarbonylphenyl)octanamide (Compound No. 250)
Following a similar procedure to that described in Example 44, but using 3-(2,4-dimethoxy-5-methoxycarbonylphenyl)octanoic acid (prepared as described in Preparation 37) and 2-t-butyl-5-carbamoylaniline (prepared as described in Preparation 38), the title compound was obtained as crystals, melting at 101°-103° C. (from methylene chloride-diethyl ether).

reactant | 3-(2,4-dimethoxy-5-methoxycarbonylphenyl)octanoic acid | COC1=C(C=C(C(=C1)OC)C(=O)OC)C(CC(=O)O)CCCCC | C18H26O6
reactant | 2-t-butyl-5-carbamoylaniline | C(C)(C)(C)C1=C(N)C=C(C=C1)C(N)=O | C11H16N2O
solvent | methylene chloride diethyl ether | C(Cl)Cl.C(C)OCC
product | N-(2-t-Butyl-5-carbamoylphenyl)-3-(2,4-dimethoxy-5-methoxycarbonylphenyl)octanamide | C(C)(C)(C)C1=C(C=C(C=C1)C(N)=O)NC(CC(CCCCC)C1=C(C=C(C(=C1)C(=O)OC)OC)OC)=O | C29H40N2O6
